US08859573B2
2-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}-5-({[2-oxo-1-(3-pyridinylmethyl)-1,2-dihydro-4-pyrimidinyl]amino}methyl)benzonitrile
The title compound was prepared with a procedure similar to that described for E1 starting from 2-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}-5-{[(2-oxo-1,2-dihydro-4-pyrimidinyl)amino]methyl}benzonitrile and 3-(chloromethyl)pyridine hydrochloride. LC-MS (ESI): m/z 512 [M+H]+; 3.70 min (ret time).

reactant | 2-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}-5-{[(2-oxo-1,2-dihydro-4-pyrimidinyl)amino]methyl}benzonitrile | ClC1=C(C=C(C=C1)OC1=C(C#N)C=C(C=C1)CNC1=NC(NC=C1)=O)C(F)(F)F | C19H12ClF3N4O2
reactant | 3-(chloromethyl)pyridine hydrochloride | Cl.ClCC=1C=NC=CC1
product | 2-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}-5-({[2-oxo-1-(3-pyridinylmethyl)-1,2-dihydro-4-pyrimidinyl]amino}methyl)benzonitrile | ClC1=C(C=C(C=C1)OC1=C(C#N)C=C(C=C1)CNC1=NC(N(C=C1)CC=1C=NC=CC1)=O)C(F)(F)F | C25H17ClF3N5O2
